US06222064B1
A reaction of 4-t-butylcyclohexanone (2 mmol) with diethylaminosulfur trifluoride (3.0 mmol) in CH2Cl2 (10 mL) at room temperature gave a 99% conversion of starting material to products and a 67% yield of 1,1-difluoro-4-t-butylcyclohexane after 6 h. as determined by NMR (4-fluoroanisole as internal standard).

reactant | 4-t-butylcyclohexanone | 2 mmol | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | diethylaminosulfur trifluoride | 3.0 mmol | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 4-fluoroanisole | FC1=CC=C(C=C1)OC | C7H7FO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1,1-difluoro-4-t-butylcyclohexane | 67% yield | FC1(CCC(CC1)C(C)(C)C)F | C10H18F2
